US08871753B2
Step C: Methyl 3-nitro-5-[(trimethylsilyl)ethynyl]benzoate
A solution of methyl 3-bromo-5-nitrobenzoate (0.331 g, 1.27 mmol), (trimethylsilyl)acetylene (0.27 mL, 1.9 mmol), bis(triphenylphosphine)palladium(II) chloride (45 mg, 0.064 mmol), copper(I) iodide (19 mg, 0.10 mmol) and triethylamine (0.26 mL, 1.9 mol) in DMF (5 mL) was stirred at room temperature overnight. The solution was diluted with ethyl acetate and 1 N HCl. The aqueous layer was extracted with ethyl acetate once, and the combined organic solutions were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography (10% ethyl acetate in hexanes) to give the desired product (310 mg, 88%). LCMS for C13H16NO4Si (M+H)+: m/z=278.1.

reactant | methyl 3-bromo-5-nitrobenzoate | 1.27 mmol, 0.331 g | BrC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H6BrNO4
reactant | (trimethylsilyl)acetylene | 1.9 mmol, 0.27 mL | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 1.9 mol, 0.26 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1 N | Cl | ClH
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.064 mmol, 45 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.10 mmol, 19 mg | [Cu]I
product | Methyl 3-nitro-5-[(trimethylsilyl)ethynyl]benzoate | 310 mg, 88% | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1)C#C[Si](C)(C)C | C13H15NO4Si
